US06815458B2
4-Piperidone hydrochloride monohydrate (4.0 g, 26 mmol, 1.0 eq) was dissolved in 130 ml of dichloromethane. After addition of triethylamine (8.66 g, 3.3 eq) the reaction mixture was stirred for 10 min. The mixture was cooled on an ice-bath (0° C.). Trifluoroacetic anhydride (12.0 g, 2.2 eq) was added dropwise under stirring. After 2 hours the reaction was quenched by addition of distilled water. The aqueous phase was extracted twice with dichloromethane. The combined organic layers were collected and dried with sodium sulfate. Concentration afforded N-trifluoroacetyl-4-piperidone.

reactant | 4-Piperidone hydrochloride monohydrate | 26 mmol, 4.0 g, 1.0 eq | O.Cl.N1CCC(CC1)=O
reactant | triethylamine | 8.66 g, 3.3 eq | C(C)N(CC)CC | C6H15N
reactant | Trifluoroacetic anhydride | 12.0 g, 2.2 eq | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 130 ml | ClCCl | CH2Cl2
product | N-trifluoroacetyl-4-piperidone | FC(C(=O)N1CCC(CC1)=O)(F)F | C7H8F3NO2
